US05447957
d) Benzhydrol 2-(2-amino-4-trifluoromethylphenoxy)benzoate
A mixture of 2-(2-amino-4-trifluoromethylphenoxy)benzoic acid (5 g, 0.017 mol) in EtOAc (50 mL) was stirred under argon at 50° C. A solution of diphenyldiazomethane, (3.3 g, 0.017 mol) dissolved in toluene (50 mL) was added dropwise. The solvents were evaporated and the residue was purified by flash chromatography (silica gel, ethyl acetate/hexane) to give the title compound as a viscous oil. 1H NMR (250 MHz, CDCl3) δ8.02 (dd, 1H), 7.45-7.52 (m, 1H), 7.20-7.33 (m, 11H), 7.07 (s, 1H), 6.96-7.07 (m, 2H), 6.86-6.91 (m, 1H), 6.73 (d, 1H), 4.00 (br s, 2H).

reactant | 2-(2-amino-4-trifluoromethylphenoxy)benzoic acid | 0.017 mol, 5 g | NC1=C(OC2=C(C(=O)O)C=CC=C2)C=CC(=C1)C(F)(F)F | C14H10F3NO3
reactant | diphenyldiazomethane | 0.017 mol, 3.3 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Benzhydrol 2-(2-amino-4-trifluoromethylphenoxy)benzoate | C(C1=CC=CC=C1)(C1=CC=CC=C1)O.NC1=C(OC2=C(C(=O)[O-])C=CC=C2)C=CC(=C1)C(F)(F)F | InChI=1S/C14H10F3NO3.C13H12O/c15-14(16,17)8-5-6-12(10(18)7-8)21-11-4-2-1-3-9(11)13(19)20;14-13(11-7-3-1-4-8-11)12-9-5-2-6-10-12/h1-7H,18H2,(H,19,20);1-10,13-14H/p-1
